resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.994031
R2 0 n2 0.998025
R3 0 n4 1.006181
R4 n1 n3 0.994603
R5 n1 n5 0.98174
R6 n2 n3 0.992438
R7 n2 n6 1.005941
R8 n3 n7 0.986417
R9 n4 n5 0.997171
R10 n4 n6 0.999798
R11 n5 n7 0.990519
R12 n6 n7 1.017691
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
